US07425631B2
Step C. Preparation of N-[7-(2-amino-ethyl)-chroman-4-yl]-3-phenyl-3-(3-trifluoromethyl-benzenesulfonylamino)-propionamide
To a solution of N-(7-cyanomethyl-chroman-4-yl)-3-phenyl-3-(3-trifluoromethyl-benzenesulfonylamino)-propionamide (790 mg, 1.45 mmol) in MeOH (20 mL) in the Parr-bottle was added Pd/C (80 mg) while flushed under N2. The reaction mixture bottle was placed in Parr-shaker. The H2 was filled up the bottle then released-this was done 3 times. After last release, the fresh H2 (50 psi) was then filled up the bottle. The reaction was under hydrogenation for 18 h. Solvent was separated from the Pd/C by passing through the Celite®. Solvent was evaporated in vacuo to give the final product. MS m/z: 548.12 (M+H). Calc'd. for C27H28F3N3O4S-547.06.

reactant | N-(7-cyanomethyl-chroman-4-yl)-3-phenyl-3-(3-trifluoromethyl-benzenesulfonylamino)-propionamide | 1.45 mmol, 790 mg | C(#N)CC1=CC=C2C(CCOC2=C1)NC(CC(NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1)=O | C27H24F3N3O4S
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | N-[7-(2-amino-ethyl)-chroman-4-yl]-3-phenyl-3-(3-trifluoromethyl-benzenesulfonylamino)-propionamide | NCCC1=CC=C2C(CCOC2=C1)NC(CC(NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1)=O | C27H28F3N3O4S
